Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
Pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
Robotic assisted sacrocolpopexy, bilateral 
salpingo-oophorectomy, perineorrhaphy, and cystoscopy 

 
History of Present Illness:
___ is a ___ nurse
who works in the ___ unit.  She presents with symptoms of
bulge and pressure in the vagina, urinary incontinence,
frequency, urgency as well as fecal urgency and incontinence. 
She states that the urinary symptoms have been going on for one
to ___ years as are the fecal issues.  She goes to the bathroom
every hour and a half in the daytime and wakes up four to five
times at night to urinate.  She does have urge incontinence.  
She
changes her pad once a day.  She has tried Kegels on her own in
the past.  She also tried Ditropan, which was not helpful.

She denies recurrent bladder infections, kidney stones or
hematuria.  She does strain to urinate.  She states her urine
flow is slow.  She does note some tissue protrusion in the
vagina.  She has had prior surgery, a vaginal hysterectomy, in
___ for prolapse.

She has frequent episodes of fecal urgency and fecal
incontinence.  The fecal urgency is typically triggered by
walking.  Her stool consistency varies.  She has had a normal
colonoscopy, the last one was about ___ years ago.

She is sexually active.

 
Past Medical History:
Past Medical History:  Sleep apnea, hyperlipidemia, restless leg
syndrome, history of migraines, history of depression.

Past Surgical History:  Vaginal hysterectomy ___ for prolapse, 
D
and C, left knee arthroscopy for meniscal tear.

Past OB History:  Gravida 6, para 2, aborted 4, two prior 
vaginal
deliveries.  Birth weight of largest baby delivered vaginally 
___
pounds.  No forceps or vacuum assistance.

 
Social History:
___
Family History:
Mother, heart attack.  Mother and father both
had hypertension.  There is also kidney disease that runs in the
family.  Her father had bladder cancer, he was a smoker.  No
breast cancer or colon cancer in the family.

 
Physical Exam:
Discharge:
Gen: NAD
Resp: CTAB
CV: RRR
Abd: soft, non-distended, appropriately tender, no rebound or 
guarding, incisions clean/dry/intact
Pelv: minimal bleeding on pad
Ext: no TTP
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing robotic assisted sacrocolpopexy, bilateral 
salpingo-oophorectomy, perineorrhaphy, and cystoscopy. Please 
see the operative report for full details.
.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
.
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to oral 
oxycodone, ibuprofen, and acetaminophen. She was given her home 
medications for depression and migraines.
.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
bupropion 200 mg SR BID, gabapentin 900 mg ___, sumatriptan PRN 
migraine, zolpidem 5 mg ___ 81 mg daily, glucosamine, 
Os-cal 
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain  
do not take more than 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0
2. BuPROPion (Sustained Release) 200 mg PO BID 
3. Gabapentin 900 mg PO ___ 
4. Ibuprofen 600 mg PO Q6H:PRN pain  
RX *ibuprofen 100 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
do not drink alcohol or drive while taking 
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
  
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and are ready to be 
discharged home. Please call Dr. ___ office with any questions 
or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___